US09376449B2
To a mixture of 3-(2-aminoethyl)-5-methoxy-N-methyl-1H-indole-2-carboxamide hydrochloride (80.0 mg) and dichloromethane (4.44 mL) were added diisopropylethylamine (0.145 mL) and propionyl chloride (0.0296 mL), followed by stirring at room temperature for 1 hour. The reaction mixture was concentrated under reduced pressure and the residue was purified by silica gel column chromatography (chloroform:methanol=10:0 to 10:1). The obtained residue was solidified with a mixed solvent of hexane:ethyl acetate=2:1 to obtain 5-methoxy-N-methyl-3-[2-(propionylamino)ethyl]-1H-indole-2-carboxamide (56.0 mg) as a white solid.

reactant | 3-(2-aminoethyl)-5-methoxy-N-methyl-1H-indole-2-carboxamide hydrochloride | 80.0 mg | Cl.NCCC1=C(NC2=CC=C(C=C12)OC)C(=O)NC
reactant | diisopropylethylamine | 0.145 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | propionyl chloride | 0.0296 mL | C(CC)(=O)Cl | C3H5ClO
solvent | dichloromethane | 4.44 mL | ClCCl | CH2Cl2
product | 5-methoxy-N-methyl-3-[2-(propionylamino)ethyl]-1H-indole-2-carboxamide | 56.0 mg | COC=1C=C2C(=C(NC2=CC1)C(=O)NC)CCNC(CC)=O | C16H21N3O3
